US09233098B2
3. Preparation of ethyl 2-[3-(4-nitrobenzyl)-1H-indazol-1-yl]acetate
Into a dry reaction vessel, 2.15 g (8.49 mmol) 3-(4-nitrobenzyl)-1H-indazole, 10 mL DMF, 1.70 g (10.2 mmol) ethyl bromoacetate, 5.54 g (17.0 mmol) cesium carbonate were respectively added, and reacted at room temperature overnight. It was chromatographed on a column to obtain 1.4 g red solid, at a yield of 48.5%.

reactant | 3-(4-nitrobenzyl)-1H-indazole | 8.49 mmol, 2.15 g | [N+](=O)([O-])C1=CC=C(CC2=NNC3=CC=CC=C23)C=C1 | C14H11N3O2
reactant | ethyl bromoacetate | 10.2 mmol, 1.70 g | BrCC(=O)OCC | C4H7BrO2
reactant | cesium carbonate | 17.0 mmol, 5.54 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | ethyl 2-[3-(4-nitrobenzyl)-1H-indazol-1-yl]acetate | 1.4 g, yield of 48.5% | [N+](=O)([O-])C1=CC=C(CC2=NN(C3=CC=CC=C23)CC(=O)OCC)C=C1 | C18H17N3O4
